US06284785B1
(2RS,3 RS)-[2-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-3-yl]-methanol
Reduction of (2RS,3RS)-2-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-3-carboxylic acid methyl ester, prepared from (2RS,3RS)-2-(4-fluoro-phenyl)-pyrrolidine-3-carboxylic acid methyl ester and toluene-4-sulfonyl chloride in accordance with the general method of example 1e, with sodium boron hydride in MeOH yielded after aqueous work-up and purification by column chromatography on silica gel (ethyl acetate/hexane 1:1) the title compound as a pale yellow oil, MS: m/e=348 (M−H+).

reactant | (2RS,3RS)-2-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1C(N(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)F | C19H20FNO4S
reactant | (2RS,3RS)-2-(4-fluoro-phenyl)-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1C(NCC1)C1=CC=C(C=C1)F | C12H14FNO2
reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium boron hydride | B.[Na]
solvent | MeOH | CO | CH4O
product | (2RS,3 RS)-[2-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-3-yl]-methanol | FC1=CC=C(C=C1)C1N(CCC1CO)S(=O)(=O)C1=CC=C(C=C1)C | C18H20FNO3S
